Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none
attach
 
Pertinent Results:
- NCHCT with No acute intracranial hemorrhage. Right inferior
cerebellum encephalomalacia. Diffuse enlargement of the
ventricles out of proportion of sulci which may represent normal
pressure hydrocephalus. Please correlate clinically.

- CT c-spine w/o contrast with Fracture through the anterior
bridging osteophyte extending to the anterior inferior endplate
of the C6 vertebral body, age indeterminate in the absence of
prior imaging, potentially recent. Linear lucencies with slight
irregularity of the superior articular facet of C2 on the right
suggestive of fracture, also age indeterminate. Extensive
degenerative change in the cervical spine and findings of DISH 
as
above.
 
Brief Hospital Course:
==================TRANSITIONAL ISSUES======================

#Agitation:
[ ] Please continue Seroquel 12.5mg QHS and 12.5mg BID PRN 
agitation

___ Body Dementia
[ ] Please continue Siniment at 2 tablets per day (reduced from 
3)
[ ] If agitation/hallucinations worsening, discuss with 
Neurology further tapering

#C-spine fracture
[ ] Not a surgical candidate and w/o e/o ___ weakness
[ ] Continue soft collar at all times
[ ] Continue fall precautions

#Malnutrition
[ ] Continue Regular Diet, multivitamin and Ensure Enlive TID

#DM2
[ ] Held home metformin I/s/o malnutrition and Hgba1c of 5.9%

==============Brief Hospital Course==============

# Altered mental status
# Acute toxic metabolic encephalopathy 
# Agitation
# Normal pressure hydrocephalus 
# Parkinsons disease 
Patient presenting with subacute altered mental status, which
seems to have significantly progressed since ___ at the time
of his fall. Evaluated by neurology and neurosurgery, with the 
general impression that this is likely not caused by the mild 
worsening of his NPH. He does have a history of Parkinsons, and 
it is possible that this may represent dementia with
behavioral disturbance, which may have been presenting more
subtly before the fall. ___ body dementia also on differential. 
Blood cultures, UA, CMP and CBC largely without alternative 
explanation. Discussed case at length with outpatient 
Neurologist who was concerned about subacute onset of change in 
mental status but did note gradual decline in memory and 
functional status over last ___ years. CT-head without acute 
worsening of NPH to explain decline. ___ strength intact not 
implicating spinal cord injury as possible explanation. TSH, b12 
wnl. Treponemal negtative. CRP 2.6. Serum tox negative. Per 
Neurology likely subacute on chronic decline from malnutrition. 
Started on standing Seroquel 12.5mg qhs and BID prn agitation 
with improvement. 

# Fall 
# C6 fracture 
With known C6 fracture. Evaluated by Neurology and Neurosurgery. 
With normal ___ exam/strength and DTRs. Not thought to be cause 
of patients decline in mental status.

- continue soft collar 
- No role for repeat MRI c-spine/brain currently
- fall precautions 

# Concern for malnutrition - Family reports 25lb weight loss in
past month. BMI 18.3 on admission. Nutrition consulted and 
recommended regular diet and ensure enlive with multivitamin. 
- Continue Regular Diet, multivitamin and Ensure Enlive TID

CHRONIC/STABLE PROBLEMS:
# CKD stage III - baseline Cr 1.1. Cr 1.0 on admission
- continue to monitor 

# Type II diabetes - A1c 7.0 on ___. Now 5.9%
- hold home metformin on discharge

# Hypertension
- continue home lisionpril 

# Hyperlipidemia
- continue home statin

# Primary prevention
- continue home aspirin

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Lisinopril 5 mg PO DAILY 
2. MetFORMIN (Glucophage) 850 mg PO BID 
3. Atorvastatin 40 mg PO QPM 
4. Carbidopa-Levodopa CR (50-200) 1 TAB PO TID 
5. Vitamin D 1000 UNIT PO DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY  
2.  QUEtiapine Fumarate 12.5 mg PO BID:PRN Agitation  
3.  QUEtiapine Fumarate 12.5 mg PO QHS  
4.  Carbidopa-Levodopa CR (50-200) 1 TAB PO BID  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  
7.  Lisinopril 5 mg PO DAILY  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Dementia
DM2
Agitation

 
Discharge Condition:
good

 
Discharge Instructions:
You were seen in the hospital for altered mental status. You 
were evaluated by our Neurologists and Neurosurgeons. You had 
good kidney/liver function and did not show any signs of 
infection. Likewise your head and neck imaging did not show 
anything to explain your agitation. 

Please stop your metformin and continue Seroquel 12.5mg BID if 
needed and 12.5mg at night.  
 
Followup Instructions:
___